US06962923B2
2-{[5-(bis{[4-(tert-butyl)phenyl]sulfonyl}amino)-1-methyl-4-(4-methylphenyl)-1H-pyrazol-3-yl]oxy}ethyl acetate
To 2-{[5-amino-1-methyl-4-(4-methylphenyl)-1H-pyrazol-3-yl]oxy}ethyl acetate (Preparation 5) (100 mg) in dichloromethane (3 ml) at room temperature was added 4-tert-butylbenzenesulfonylchloride (88 mg), tetrabutylammonium hydrogen sulfate (14 mg) and potassium hydroxide (42 mg), the mixture was sonicated for 3 hrs. The reaction was diluted with water (10 ml) and extracted with ethyl acetate (10 ml). The organic fraction was dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography (silica, 10 g) eluted with dichloromethane to yield the title compound as a white solid (80 mg).

reactant | 2-{[5-amino-1-methyl-4-(4-methylphenyl)-1H-pyrazol-3-yl]oxy}ethyl acetate | 100 mg | C(C)(=O)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)N)C | C15H19N3O3
reactant | 4-tert-butylbenzenesulfonylchloride | 88 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | potassium hydroxide | 42 mg | [OH-].[K+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium hydrogen sulfate | 14 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 10 ml | O | H2O
product | 2-{[5-(bis{[4-(tert-butyl)phenyl]sulfonyl}amino)-1-methyl-4-(4-methylphenyl)-1H-pyrazol-3-yl]oxy}ethyl acetate | 80 mg | C(C)(=O)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C | C35H43N3O7S2
